US08426411B2
To a solution of (1S,3R,4S)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine (115 mg, 0.271 mmol, Preparation #BB.1*) in DCM (1.5 mL) was added DIEA (0.071 mL, 0.406 mmol) followed by 2-methylpropane-2-sulfinic chloride (0.037 mL, 0.298 mmol). After about 4 h the reaction mixture was diluted with EtOAc (10 mL) and aqueous saturated NaHCO3 (10 mL). The organic layer was separated, dried over anhydrous Na2SO4, filtered and concd in vacuo. The crude residue was dissolved in DCM (1.5 mL) and a freshly prepared solution of m-chloroperbenzoic acid (0.271 mL, 0.271 mmol, 1M in DCM) was added. After about 2 h the reaction mixture was diluted with EtOAc (10 mL) and saturated aqueous NaHCO3 (10 mL). The organic layer was separated, dried over anhydrous Na2SO4, filtered and concd in vacuo. The crude residue was purified by chromatography on silica gel eluting with EtOAc to provide N-((1S,3R,4S)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)-2-methylpropane-2-sulfonamide (95 mg, 64% yield) as an oil. LC/MS (Table 1, Method a) Rt=2.40 min; MS m/z: 545 (M+H)+.

reactant | (1S,3R,4S)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine | 0.271 mmol, 115 mg | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)N | C21H24N6O2S
reactant | DIEA | 0.406 mmol, 0.071 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-methylpropane-2-sulfinic chloride | 0.298 mmol, 0.037 mL | CC(C)(C)S(=O)Cl | C4H9ClOS
reactant | m-chloroperbenzoic acid | 0.271 mmol, 1M, 0.271 mL | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
product | N-((1S,3R,4S)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)-2-methylpropane-2-sulfonamide | 95 mg, 64% yield | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)NS(=O)(=O)C(C)(C)C | C25H32N6O4S2
